US07456170B2
Preparation 1: tert-Butyl 4-pyridin-2-ylpiperidine-1-carboxylate
Zinc powder (10.50 g, 160.60 mmol) was added to 2M hydrochloric acid (25 mL) and the resulting suspension was stirred for 20 minutes. It was then filtered and washed with water (10 mL), ethanol (10 mL), diethyl ether (10 mL) and dried in a vacuum oven for 24 hours. The dried zinc was suspended in N,N-dimethylformamide (50 mL) and 1,2-dibromoethane (277 μL, 3.21 mmol) was added. The resulting suspension was warmed to 65° C. for 5 minutes and then allowed to cool to room temperature, after which time trimethylsilyl chloride (406 μL, 3.2 mmol) was added. The reaction was stirred at room temperature for 45 minutes and then a solution of tert-butyl 4-iodopiperidine-1-carboxylate (Synlett, 4, 379, 1998) (10 g, 32.1 mmol) and hydroquinone (177 mg, 0.05 mmol) in N,N-dimethylformamide (50 mL) was slowly added, followed by warming to 150° C. for 30 minutes. 2-bromopyridine (3.06 mL, 32.10 mmol) in N,N-dimethylformamide (20 mL) was then added, followed by 5 mol % of Pd2(dba)3 (1.44 g, 1.57 mmol), 10 mol % P-(2-furyl)3 (747 mg, 3.22 mmol) and the reaction was heated at 65° C. for 24 hours. The reaction mixture was filtered through Celite® and diluted with water (500 mL). It was then extracted with diethyl ether (2×250 ml). The organic layers were combined and washed with brine, dried over magnesium sulfate and concentrated in vacuo to give the crude residue. Purification by column chromatography on silica gel using diethyl ether:pentane (50:50-100:0) as eluent afforded the product as a yellow oil, 1.9 g (23%).

reactant | hydrochloric acid | 2M, 25 mL | Cl | ClH
reactant | 1,2-dibromoethane | 3.21 mmol, 277 μL | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 3.2 mmol, 406 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | tert-butyl 4-iodopiperidine-1-carboxylate | 32.1 mmol, 10 g | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | hydroquinone | 0.05 mmol, 177 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 2-bromopyridine | 32.10 mmol, 3.06 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | P-(2-furyl)3 | 3.22 mmol, 747 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | Zinc | 160.60 mmol, 10.50 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 1.57 mmol, 1.44 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl 4-pyridin-2-ylpiperidine-1-carboxylate | N1=C(C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
